US07122545B2
To a suspension of 0.31 g of imidazole-2-carboxylic acid (2.76 mmol) in 14 ml DMF was added 0.448 g of CDI (2.76 mmol), 0.38 ml triethylamine (2.76 mmol) and stirred at ambient temperature for 1 h. Then the mixture was refluxed for 30 min. After cooling to ambient temperature, 0.5 g of 5-phenyl-o-anisidine (2.5 mmol) was added and the reaction mixture was heated to reflux for 16 h. The mixture was evaporated and the residue taken up in water (40 ml) and extracted 3 times with methylene chloride. The combined organic phases were tried on sodium carbonate, evaporated and the residue was stirred in hot ethyl acetate. After filtration and drying, 0.11 g 1H-imidazole-2-carboxylic acid (4-methoxy-biphenyl-3-yl)-amide (14%) were obtained as a light yellow solid; M.p.: 276° C. 0.1 g of 1H-Imidazole-2-carboxylic acid (4-methoxy-biphenyl-3-yl)-amide (0.36 mmol) was taken up in toluene (5.0 ml) and treated with 0.435 g of Lawesson reagent (1.0 mmol). The reaction mixture was heated to reflux for 16 h. After cooling to ambient temperature, water (25 ml) was added and the mixture was extracted 3 times with dichloro methane. The combined organic phases were dried on sodium carbonate, evaporated and the residue triturated in methanol. 0.08 g of 1H-imidazole-2-carbothioic acid (4-methoxy-biphenyl-3-yl)-amide (73%) were obtained as a yellow solid; M.p.: 223–226° C.

reactant | 1H-Imidazole-2-carboxylic acid (4-methoxy-biphenyl-3-yl)-amide | 0.36 mmol, 0.1 g | COC1=C(C=C(C=C1)C1=CC=CC=C1)NC(=O)C=1NC=CN1 | C17H15N3O2
reactant | Lawesson reagent | 1.0 mmol, 0.435 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | water | 25 ml | O | H2O
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
product | 1H-imidazole-2-carbothioic acid (4-methoxy-biphenyl-3-yl)-amide | 0.08 g, 73% | COC1=C(C=C(C=C1)C1=CC=CC=C1)NC(=S)C=1NC=CN1 | C17H15N3OS
